US08563617B2
325.3 [7-(2-Bromo-ethyl)-1-(3-chloro-benzyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester
To a solution of [1-(3-chloro-benzyl)-7-(2-hydroxy-ethyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]carbamic acid ethyl ester (554 mg, 1.428 mmol) in 15 ml dry CH2Cl2 cooled to 0° C. was added triphenylphosphine (562 mg, 2.142 mmol) and carbon tetrabromide (0.208 ml, 2.142 mmol). The mixture was stirred for 1 h, after which solvents were evaporated. The residue was purified by chromatography to obtain 277 mg of product as a white solid.

reactant | [1-(3-chloro-benzyl)-7-(2-hydroxy-ethyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]carbamic acid ethyl ester | 1.428 mmol, 554 mg | C(C)OC(NC1C(C2=CC(=CC=C2CC1)CCO)CC1=CC(=CC=C1)Cl)=O | C22H26ClNO3
reactant | triphenylphosphine | 2.142 mmol, 562 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 2.142 mmol, 0.208 ml | C(Br)(Br)(Br)Br | CBr4
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | [7-(2-Bromo-ethyl)-1-(3-chloro-benzyl)-1,2,3,4-tetrahydro-naphthalen-2-yl]-carbamic acid ethyl ester | 277 mg | C(C)OC(NC1C(C2=CC(=CC=C2CC1)CCBr)CC1=CC(=CC=C1)Cl)=O | C22H25BrClNO2
